### PR TITLE
 feat(Topology): generalise Lipschitz to `WeakPseudoEMetricSpace`

### PR DESCRIPTION
**Pull request by felixpernegger**
The definition of `LipschitzWith` itself, I changed to only require `EDist`, since that is all that being used

(a few generalizations about continuity were made by Codex, but this PR is largely done by hand, so i wouldnt call it LLM generated)

---

- [x] depends on: #42688

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/EMetricSpace/Lipschitz.lean [hunk 1]
```diff
@@ -180,13 +186,13 @@ theorem edist_lt_of_edist_lt_div (hf : LipschitzWith K f) {x y : α} {d : ℝ≥
...
-protected theorem uniformContinuous (hf : LipschitzWith K f) : UniformContinuous f :=
+protected theorem uniformContinuous (hg : LipschitzWith K g) : UniformContinuous g :=
   EMetric.uniformContinuous_iff.2 fun ε εpos =>
-    ⟨ε / K, ENNReal.div_pos_iff.2 ⟨ne_of_gt εpos, ENNReal.coe_ne_top⟩, hf.edist_lt_of_edist_lt_div⟩
+    ⟨ε / K, ENNReal.div_pos_iff.2 ⟨ne_of_gt εpos, ENNReal.coe_ne_top⟩, hg.edist_lt_of_edist_lt_div⟩
 
 /-- A Lipschitz function is continuous. -/
-protected theorem continuous (hf : LipschitzWith K f) : Continuous f :=
-  hf.uniformContinuous.continuous
+protected theorem continuous (hg : LipschitzWith K g) : Continuous g :=
```
Comment (gasparattila) [inline Mathlib/Topology/EMetricSpace/Lipschitz.lean]: This can be generalized to `WeakPseudoEMetricSpace` codomain.

Comment (felixpernegger) [reply Mathlib/Topology/EMetricSpace/Lipschitz.lean]: thx

File: Mathlib/Topology/EMetricSpace/Lipschitz.lean [hunk 2]
```diff
@@ -180,13 +186,16 @@ theorem edist_lt_of_edist_lt_div (hf : LipschitzWith K f) {x y : α} {d : ℝ≥
...
+    ⟨ε / K, ENNReal.div_pos_iff.2 ⟨ne_of_gt εpos, ENNReal.coe_ne_top⟩, hg.edist_lt_of_edist_lt_div⟩
 
 /-- A Lipschitz function is continuous. -/
-protected theorem continuous (hf : LipschitzWith K f) : Continuous f :=
-  hf.uniformContinuous.continuous
+protected theorem continuous (ht : LipschitzWith K t) : Continuous t := by
+  apply continuous_def.mpr fun o ho ↦ ?_
+  let := PseudoEMetricSpace.ofEDist (α := β) edist edist_self edist_comm edist_triangle
+  exact continuous_def.mp (UniformContinuous.continuous ht.uniformContinuous) o <|
+    WeakPseudoEMetricSpace.topology_le o ho
```
Comment (gasparattila) [inline Mathlib/Topology/EMetricSpace/Lipschitz.lean]: A slightly cleaner proof:
```suggestion
protected theorem continuous (ht : LipschitzWith K t) : Continuous t :=
  let := PseudoEMetricSpace.ofEDist (α := β) edist edist_self edist_comm edist_triangle
  continuous_le_rng WeakPseudoEMetricSpace.topology_le ht.uniformContinuous.continuous
```

**Review by j-loreaux — COMMENTED** [review]
Instead of just declaring a bunch of new `variable`s in one location everywhere, I would try to `section` them off into chunks, or, if the result that needs `PseudoEMetricSpace` is a one-off, just add them in there. It would aid readability. As is, I have to scroll back up to see which variables have which instances.
